US07314936B2
To a solution of (R)-(−)-leucinol (2.0 g, 17 mmol, 1.0 eq.), Et3N (3.6 mL, 1.5 eq.) and DMAP (10 mg) in THF (2 mL) was added Boc2O (4.5 g, 1.2 eq.) at room temperature. After stirring for 5 h, the reaction was quenched by water and the separated aqueous phase was extracted with 4× ether. The combined organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (20% to 30% EtOAc/hexanes) to give (1-hydroxymethyl-3-methyl-butyl)-carbamic acid tert-butyl ester (1.9 g, 53%). 1H NMR confirmed the compound.

reactant | (R)-(−)-leucinol | 17 mmol, 2.0 g, 1.0 eq. | N[C@H](CC(C)C)CO | C6H15NO
reactant | Et3N | 3.6 mL, 1.5 eq. | CCN(CC)CC | C6H15N
reactant | Boc2O | 4.5 g, 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1-hydroxymethyl-3-methyl-butyl)-carbamic acid tert-butyl ester | 1.9 g, 53% | C(C)(C)(C)OC(NC(CC(C)C)CO)=O | C11H23NO3
